US05478851
5-(4-[2-(N-Benzoyl-N-methylamino)ethoxy]benzylidene)-2,4-thiazolidinedione.
A mixture of 4-[2-(N-benzoyl-N-methylamino)ethoxy]benzaldehyde (3.94 g), 2,4-thiazolidinedione (1.79 g), benzoic acid (0.2 g) and piperidine (0.2 ml) were heated at reflux in toluene (250 ml) in a Dean and Stark apparatus. After 5 hours at reflux the mixture was allowed to cool and crystallise overnight. The title compound, mp 178-180° C., was filtered off, washed with cold toluene and dried under vacuum.

reactant | 4-[2-(N-benzoyl-N-methylamino)ethoxy]benzaldehyde | 3.94 g | C(C1=CC=CC=C1)(=O)N(C)CCOC1=CC=C(C=O)C=C1 | C17H17NO3
reactant | 2,4-thiazolidinedione | 1.79 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | benzoic acid | 0.2 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(N-Benzoyl-N-methylamino)ethoxy]benzylidene)-2,4-thiazolidinedione | C(C1=CC=CC=C1)(=O)N(C)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C20H18N2O4S
